US07144908B2
i) 6-(But-3-ynyloxy)hexanal
6-Bromohexylbut-3-ynyl ether (525 mg) in DMSO (2 ml) was added to a mixture of sodium bicarbonate (1 g) in DMSO (8 ml) at 150° C. with vigorous stirring and nitrogen bubbling through the solution. The mixture was stirred for 20 min at 150° C. and then allowed to cool to room temperature, diluted with Et2O and washed with water. The aqueous layer was extracted with Et2O and the combined ether layers were washed with dilute hydrochloric acid, brine, dried (MgSO4) and evaporated to dryness to give the title compound (325 mg): IR 1726 cm−1 MS(TSP+ve) m/z 186 (M+MH4)+.

reactant | 6-Bromohexylbut-3-ynyl ether | 525 mg | BrCCCCCCOCCC#C | C10H17BrO
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
solvent | Et2O | CCOCC | C4H10O
product | 6-(But-3-ynyloxy)hexanal | 325 mg | C(CC#C)OCCCCCC=O | C10H16O2
